Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old right handed man with past 
medical history remarkable for frontal lobe epilepsy and 
non-epileptical seizures poorly controlled on Lamictal who was 
recently admitted to ___ for tonic-clonic seizure at his 
assisted living facility in ___ who now presents for 
scheduled long term epilepsy monitoring. On presentation and 
initial evaluation, the patient was awake but minimally 
responsive and posturing with both arms in odd positions with 
wide open eyes staring around room.  Was unable to respond to 
question or command for approximately ___ minutes.  After this, 
verbal function slowly returned with first responses of "why?" 
to any requests, and finally full appropriate responses with 
following commands.  Of note, Mr. ___ was agitated and 
angry with any questions for a period of time after his initial 
event. 

Approximately 10 minutes after his event, questioning continued 
with the patient noting he did not remember his previous 
presentation, or myself (who had taken care of the patient 
during his ___ admission).  He noted the events which have 
occurred which are what he describes as "Electrographically 
negative" mostly involve him being unable to respond; however, 
he is aware of what is occurring which makes him quite 
distressed and bitter. He notes always having some jerks in his 
head and upper extremities in varying degrees during these 
events.  

During the interview, Mr. ___ had a second event which 
began with no premonition, aura, or signal and was characterized 
by loss of speech in the middle of a sentence, extending his 
arms in varying degrees to his head, turning first to the right 
then left for around ___ minutes with some confusion. During the 
event sudden jerking movements of his head both to the right and 
left, myotonic like contractions of his arms, with his legs 
alternatively flexing at the hip and knee and releasing 
repeatedly. Mr. ___ said these actions were not voluntary 
upon resolution of his symptoms.

His last tonic-clonic character occurred in ___ at his 
residence ___, an assisted living facility in 
___. He reports he lost consciousness, does not remember 
what happened or how long it lasted, and that nobody has 
informed him of what occurred.  
 
Past Medical History:
(per OMR)
EPILEPSY  
- Refractory frontal lobe epilepsy, documented on EEG (___)  
- Non-epileptiform seizures  
NONEPILEPTIC SEIZURES  
- He has a history of non epileptical seizures which come and go 
all day.  
PSYCHIATRIC & BEHAVIORAL: H/O PTSD, depression, pseudoseizures  
DEPRESSION ___  
ANEMIA: Since ___, thought due to hypogonadism  
CATARACT  
CHRONIC BACK PAIN  
GYNECOMASTIA  
OSTEOPOROSIS ___  
HYPOGONADISM  
- ___: Dx with gynecomastia  
- Patient has tried the patch and gel in the past and it was not 
effective and prefers the shot  
HYPERTENSION  
H/O TESTICULAR CALCIFICATION  
- ___: Stable, no follow-up needed  
H/O TOBACCO ABUSE 
H/O PANCYTOPENIA On depakote  
 
Social History:
___
Family History:
Denies family history of seizures. Mother died at ___ of CAD, had 
glaucoma. Father died at ___ of skin cancer, also had 
inflammatory bowel disease and dementia. Brothers have history 
of skin cancer.
 
Physical Exam:
ADMISSION EXAM
**************
T=98.3, HR=68, RR=20, BP=123/73, SaO2=96% on RA
General: Awake, having active episodes of unresponsiveness 
during interview as detailed above
HEENT: NC/AT wearing EEG leads
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, aware, orientation to month, date, self, 
but did not volunteer additional information as he was combative 
or tangential with statements.  Able to relate history but had 
issues secondary to concentration.  Inattentivem tangential 
throughout interview, perseverated on "no one believes me, you 
dont believe me", worse after event. Otherwise, language is 
fluent with intact repetition and comprehension noted by patient 
mocking interviewer.  Normal prosody.  There were no paraphasic 
errors. Pt. was able to name both high and low frequency 
objects. Able to read without difficulty as evidenced by seeing 
the words on the wall. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic 
exam revealed no papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI as evidenced through watching gross movements 
without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    3   4 (clonus 12 beats) (with crossed reflex)
R  3  2    3    3   4 (clonus 6 beats)
Plantar response was flexor bilaterally.
-Coordination: Did not assess.
-Gait: Assessed with ambulation to bathroom, wider based with 
some ataxia but able to ambulate with pole 

DISCHARGE EXAMINATION
General: Awake, having active episodes of unresponsiveness 
during interview as detailed above
HEENT: NC/AT 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
 
-Mental Status: Alert, oriented x 3.  Able to relate history 
without difficulty.  Attentive, able to name ___ backward 
without difficulty.  Language is fluent with intact repetition 
and comprehension.  Normal prosody.  There were no paraphasic 
errors.  Pt. was able to name both high and low frequency 
objects.  Able to read without difficulty.  Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. Pt. was able to register 3 objects and recall ___ at 5 
minutes.  The pt. had good knowledge of current events.  There 
was no evidence of apraxia or neglect.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic 
exam revealed no papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    3   3 (with crossed reflex)
R  3  2    3    3   3 
Plantar response was flexor bilaterally.
-Coordination: Intact to Finger-Nose-Finger
-Gait: Assessed with ambulation to bathroom, wider based with 
some ataxia but able to ambulate with pole 

 
Pertinent Results:
___ 04:14AM BLOOD WBC-5.8 RBC-3.42* Hgb-10.2* Hct-32.4* 
MCV-95 MCH-29.8 MCHC-31.5 RDW-16.7* Plt ___
___ 04:14AM BLOOD Plt ___
___ 04:14AM BLOOD ___ PTT-30.8 ___
___ 04:14AM BLOOD Ret Aut-2.6
___ 04:14AM BLOOD Glucose-78 UreaN-21* Creat-1.2 Na-142 
K-4.1 Cl-104 HCO3-36* AnGap-6*
___ 04:14AM BLOOD Calcium-9.3 Phos-4.3 Mg-2.4 Iron-69
___ 05:25PM BLOOD ALT-10 AST-18 LD(LDH)-193 AlkPhos-49 
TotBili-0.1
___ 04:14AM BLOOD calTIBC-286 ___ Ferritn-194 TRF-220

___ 04:15AM BLOOD WBC-5.6 RBC-3.58* Hgb-10.8* Hct-33.8* 
MCV-94 MCH-30.1 MCHC-32.0 RDW-16.6* Plt ___
___ 04:15AM BLOOD Plt ___
___ 04:15AM BLOOD Glucose-90 UreaN-25* Creat-1.1 Na-140 
K-4.2 Cl-104 HCO3-29 AnGap-11
___ 04:14AM BLOOD LD(LDH)-163
___ 04:14AM BLOOD Calcium-9.3 Phos-4.3 Mg-2.4 Iron-69
 
Brief Hospital Course:
# Neurologic:
On admission, the patient was started on continuous EEG 
monitoring with which multiple push button events in the first 
24 hours revealed none of the witnessed episodes associated with 
electrographic events.  Over the course of the following ___ 
days, the lamictal dose was decreased 100mg per day with Onfi 
started at 5mg qhs, then BID after the first day. 

Mr. ___ continued to have events with the same morphology 
over the course of the next eight days, with posturing, gazing 
around, and unresponsiveness.  Of note, these events were all 
recorded on EEG with no electrographically associated component. 
 His Clobezam was increased to 20mg BID on which he was 
discharged.

# Cardiovascular:
Telemetry was initiated along with EEG monitoring which revealed 
no specific ectopy or abnormal events.

# ___: 
The patient was evaluated for ambulation, however, despite their 
requests for rehabilitation, Mr. ___ declined.  Home 
services were established with the patient and outpatient 
appointments were made.
 
Medications on Admission:
- Citalopram 40 mg qDay  
- Lamotrigine XR 500 mg qDay
- Folic Acid 1 mg PO/NG qDay
- Cholecalciferol (Vitamin D) 1000 UNITS qDay

 
Discharge Medications:
1. Citalopram 40 mg PO DAILY 
2. Clobazam 5 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Vitamin D 800 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizure disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were evaluated at ___ with 
continuous EEG to further characterize your seizure disorder and 
change your anti-epileptic drug regimen from Lamictal 
(lamotrigine) to Onfi (clobezam).  While you were being 
monitored, several push-button events were recorded; however, 
none of the events coincided with any change in EEG suggesting 
highly that the events are non-electrographic events.

Please continue using the Clobezam as prescribed, and continue 
to follow up with your appointments as scheduled.
 
Followup Instructions:
___